US09023855B2
Intermediate 4. 4-(4-Cyanophenyl)-2-methoxy-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid methyl ester
To a solution of 4-cyanobenzaldehyde (13.1 g, 100 mmol) in DMF (200 mL), was added sodium bicarbonate (33.4 g, 400 mmol), followed by O-methylisourea hemisulphate (14.8 g, 120 mmol) and methyl acetoacetate (12.8 g, 110 mmol). The reaction mixture was heated at 70° C. for 5 hours, then poured into water and the product was extracted into EtOAc. The organic phase was washed with water (×2) followed by brine then dried (Na2SO4) and evaporated to dryness. The resulting yellow gum was purified by silica gel chromatography eluting with diethyl ether to give the title compound as a yellow solid (12.8 g).

reactant | 4-cyanobenzaldehyde | 100 mmol, 13.1 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | sodium bicarbonate | 400 mmol, 33.4 g | C([O-])(O)=O.[Na+]
reactant | O-methylisourea hemisulphate | 120 mmol, 14.8 g | S(=O)(=O)(O)O.COC(N)=N.COC(N)=N
reactant | methyl acetoacetate | 110 mmol, 12.8 g | C(CC(=O)C)(=O)OC | C5H8O3
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-Cyanophenyl)-2-methoxy-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid methyl ester | 12.8 g | COC(=O)C=1C(N=C(NC1C)OC)C1=CC=C(C=C1)C#N | C15H15N3O3
